US07579351B2
(S)-4-Hydroxymethyl-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The solution of 0.2 g (0.40 mmol) (S)-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one in 1 ml tetrahydrofuran was cooled down to 0° C. and treated with 0.14 ml (0.126 g, 0.48 mmol) tetra-n-butylammoniumfluoride solution (1M in tetrahydrofuran). The cooling bath was removed and after 1.5 hours stirring at room temperature the solution was poured on saturated aqueous sodium bicarbonate solution and was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The crude product was purified by flash column chromatography on silica gel with dichloromethane:methanol:ammonia (9:1:0.1 v/v) as eluant to give 60 μg (42%) of the desired compound as a colorless semi solid.

reactant | (S)-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 0.40 mmol, 0.2 g | C[SiH](OC([C@@H]1CNC(C=2N1C=1C=CC(=CC1C2)OC2CCN(CC2)C(C)C)=O)C(C(C)C)(C)C)C | C28H45N3O3Si
reactant | tetra-n-butylammoniumfluoride | 0.48 mmol, 1M, 0.14 ml, 0.126 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (S)-4-Hydroxymethyl-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 60 μg, 42% | OC[C@@H]1CNC(C=2N1C=1C=CC(=CC1C2)OC2CCN(CC2)C(C)C)=O | C20H27N3O3
